US07863280B2
A mixture of 3-ethyl-6-methyl-1H-pyridin-2-one (23.92 g, 174.4 mmol) and N-bromosuccinimide (32.67 g, 183.5 mmol) in methanol (450 ml) was stirred under nitrogen at room temperature. A thick suspension formed after some hours and was stirred at RT for a further 24 h. The reaction mixture was concentrated to one half to one third of the original volume and diluted with 200 ml of water. The mixture was cooled in an ice bath with stirring and then filtered with suction. The residue was washed with cold water and dried at 65° C. 35.93 g (95%) of 5-bromo-3-ethyl-6-methyl-1H-pyridin-2-one were obtained in the form of a beige powder.

reactant | 3-ethyl-6-methyl-1H-pyridin-2-one | 174.4 mmol, 23.92 g | C(C)C=1C(NC(=CC1)C)=O | C8H11NO
reactant | N-bromosuccinimide | 183.5 mmol, 32.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 450 ml | CO | CH4O
product | 5-bromo-3-ethyl-6-methyl-1H-pyridin-2-one | 35.93 g, 95% | BrC=1C=C(C(NC1C)=O)CC | C8H10BrNO
